US06380387B1
N-[(2-chloro-6-methylphenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine ethyl ester was prepared from N-[(2-chloro-6-methylphenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine and iodoethane using the general procedure described in example 27 and was obtained as an amorphous white solid. ES-HRMS m/e calcd for C26H28ClN3O5 (M+Na) 520.1610, found 520.1591.

reactant | N-[(2-chloro-6-methylphenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine | ClC1=C(C(=CC=C1)C)C(=O)N[C@@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)C(=O)O | C24H24ClN3O5
reactant | iodoethane | ICC | C2H5I
product | N-[(2-chloro-6-methylphenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine ethyl ester | C(C)OC([C@@H](NC(=O)C1=C(C=CC=C1C)Cl)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)=O | C26H28ClN3O5
